US04461907
3,5-Dichloro-2-hydroxybenzyl alcohol (4.0 g) and styrene (2.19 g) were heated together at 190° C. for 3 hr. The required 6,8-dichloroflavan was obtained on chromatography of the crude reaction mixture on alumina, eluting with toluene-petroleum ether (b.p. 60°-80° C.) 1:1, and recrystallised from petroleum ether (b.p. 60°-80° C.) to yield 2.60 g, m.p. 74°-76° C.

reactant | 3,5-Dichloro-2-hydroxybenzyl alcohol | 4.0 g | ClC=1C(=C(CO)C=C(C1)Cl)O | C7H6Cl2O2
reactant | styrene | 2.19 g | C=CC1=CC=CC=C1 | C8H8
product | 6,8-dichloroflavan | ClC=1C=C2CCC(OC2=C(C1)Cl)C1=CC=CC=C1 | C15H12Cl2O
